US07414131B2
A. 1-(3,4-Dihydro-4,4-dimethyl-7-nitroquinolin-1(2H)-yl)ethanone
To a stirred solution of 1,2,3,4-tetrahydro-4,4-dimethyl-7-nitroquinoline (Rami et al, WO 03/068749) (500 mg, 2.42 mmol), DMAP (5 mg) in pyridine (2 mL) was added acetic anhydride (0.46 mL, 4.9 mmol). The mixture was stirred at room temperature for 10 h, and then heated at 60° C. for 5 h. After cooling, the mixture was treated with water and extracted with EtOAc. The combined organic layers were washed with sat. aq. NaHCO3, 1N HCl, brine, dried, and evaporated. The residue was purified by chromatography to give a light yellow solid (550 mg, 92%).

reactant | 1,2,3,4-tetrahydro-4,4-dimethyl-7-nitroquinoline | 2.42 mmol, 500 mg | CC1(CCNC2=CC(=CC=C12)[N+](=O)[O-])C | C11H14N2O2
reactant | acetic anhydride | 4.9 mmol, 0.46 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 1-(3,4-Dihydro-4,4-dimethyl-7-nitroquinolin-1(2H)-yl)ethanone | 550 mg, 92% | CC1(CCN(C2=CC(=CC=C12)[N+](=O)[O-])C(C)=O)C | C13H16N2O3
